US08034953B2
Step 2: 4-Amino-N-(3-fluorophenyl)-N′-hydroxy-1,2,5-oxadiazole-3-carboximidamide
A solution of 3-fluoroaniline (36 μL, 0.37 mmol) in ethanol (0.5 mL) was treated with a solution of 4-amino-N-hydroxy-1,2,5-oxadiazole-3-carboximidoyl chloride (50 mg, 0.31 mmol) in ethanol (1.5 mL) followed by triethylamine (51 μL, 0.37 mmol) dropwise. The reaction mixture was stirred at 25° C. for 1 h and purified by preparative LCMS to give the desired product (21 mg, 29%).

reactant | 3-fluoroaniline | 0.37 mmol, 36 μL | FC=1C=C(N)C=CC1 | C6H6FN
reactant | 4-amino-N-hydroxy-1,2,5-oxadiazole-3-carboximidoyl chloride | 0.31 mmol, 50 mg | NC=1C(=NON1)C(=NO)Cl | C3H3ClN4O2
reactant | triethylamine | 0.37 mmol, 51 μL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | 4-Amino-N-(3-fluorophenyl)-N′-hydroxy-1,2,5-oxadiazole-3-carboximidamide | 21 mg, 29% | NC=1C(=NON1)C(NC1=CC(=CC=C1)F)=NO | C9H8FN5O2
